US05596006
Methyl 3-chloro-4-trifluoromethylsulphonyloxy-benzoate
5.5 ml of trifluoromethanesulphonic anhydride (33 mmol) are slowly added dropwise to a solution of 5.49 g methyl 3-chloro-4-hydroxy-benzoate (29.4 mmol) in 15 ml of pyridine at 0° C. After the reaction mixture has been stirred at 0° C. for 5 minutes and at room temperature for 4 hours, it is partitioned between water and ether. The organic phase is washed in succession with water, dilute hydrochloric acid, water and saturated sodium chloride. solution, dried over sodium sulphate and concentrated and the residue is chromatographed over silica gel using methylene chloride to give 8.93 g of a pale yellow thinly mobile oil [95.2% of theory, Rf 0.63 (hexane:ethyl acetate=3:1)].

reactant | trifluoromethanesulphonic anhydride | 33 mmol, 5.5 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 3-chloro-4-hydroxy-benzoate | 29.4 mmol, 5.49 g | ClC=1C=C(C(=O)OC)C=CC1O | C8H7ClO3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 3-chloro-4-trifluoromethylsulphonyloxy-benzoate | ClC=1C=C(C(=O)OC)C=CC1OS(=O)(=O)C(F)(F)F | C9H6ClF3O5S
